US06107329
B. (±)-2-Amino-3-[4-(4,5-dihydro-1H-imidazol-2-yl)-phenyl]-propionic acid dihydrochloride
To 2-acetylamino-2-[4-(4,5-dihydro-1H-imidazol-2-yl)-benzyl]-malonic acid, diethyl ester (3.0 g, 7.3 mmol) was added glacial acetic acid (50 mL) and 3N HCl (100 mL). The solution was heated to reflux for 3 hours, cooled and concentrated to a white solid which was recrystallized from methanol/ether (2.0 g, mp 270-272° C. dec.).

reactant | 2-acetylamino-2-[4-(4,5-dihydro-1H-imidazol-2-yl)-benzyl]-malonic acid, diethyl ester | 7.3 mmol, 3.0 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=CC=C(C=C1)C=1NCCN1 | C19H25N3O5
reactant | HCl | 3N, 100 mL | Cl | ClH
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | (±)-2-Amino-3-[4-(4,5-dihydro-1H-imidazol-2-yl)-phenyl]-propionic acid dihydrochloride | Cl.Cl.NC(C(=O)O)CC1=CC=C(C=C1)C=1NCCN1 | InChI=1S/C12H15N3O2.2ClH/c13-10(12(16)17)7-8-1-3-9(4-2-8)11-14-5-6-15-11;;/h1-4,10H,5-7,13H2,(H,14,15)(H,16,17);2*1H
